US07365095B2
Treatment of ((2R)-8-(4-chloro-2-methylphenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate (0.5 g, 1.09 mmol) with sodium azide (0.43 g, 6.54 mmol) in DMSO (15 mL) according to the procedure described for Example 69, Step 9 provided 0.30 g (83%) of (2R)-2-(azidomethyl)-8-(4-chloro-2-methylphenyl)-7-fluorochroman as a colorless oil.

reactant | ((2R)-8-(4-chloro-2-methylphenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate | 1.09 mmol, 0.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=C(C=C1)Cl)C | C24H22ClFO4S
reactant | sodium azide | 6.54 mmol, 0.43 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (2R)-2-(azidomethyl)-8-(4-chloro-2-methylphenyl)-7-fluorochroman | 0.30 g, 83% | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=C(C=C1)Cl)C | C17H15ClFN3O
